US08455477B2
4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine (486 mg, 2.13 mmol) was suspended in acetonitrile (30 ml). N-iodosuccinimide (958 mg, 4.26 mmol) was added and the mixture was allowed to stir for 1 h. The reaction mixture was diluted in dichloromethane, washed with water, 1N aqueous sodium hydroxide and brine. The combined organic layers were dried over sodium sulfate, filtered, and concentrated to afford 3-iodo-4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine as a tan solid. 1H NMR (500 MHz, DMSO-d6) δ 8.67 (s, 1H); 8.28 (s, 1H); 8.01 (s, 1H); 7.92 (1, 1H); 6.89 (s, 1H); 3.96 (s, 3H); 3.85 (s, 3H). LRMS (ESI) calculated for C12H12IN4O [M+H]+, 355.0; found 354.9.

reactant | 4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine | 2.13 mmol, 486 mg | COC=1C=2N(C=C(C1)C=1C=NN(C1)C)N=CC2 | C12H12N4O
reactant | N-iodosuccinimide | 4.26 mmol, 958 mg | IN1C(CCC1=O)=O | C4H4INO2
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-iodo-4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine | IC=1C=NN2C1C(=CC(=C2)C=2C=NN(C2)C)OC | C12H11IN4O
